US05589478
A mixture of 4-tert-butyl-N-[6-{2-(5-(1 -ethoxyethenyl)pyrimidin-2-yloxy)ethoxy}-5-(3-methoxyphenoxy)pyrimidin-4-yl]benzenesulfonamide (1.022 g), 10% hydrochloric acid (1 ml) and acetone (20 ml) is reacted at room temperature for four hours. The pH value of the reaction solution is adjusted to pH 6 with aqueous sodium hydrogen carbonate solution, and the mixture is evaporated to remove the solvent. To the residue are added aqueous ammonium chloride solution and ethyl acetate, and the ethyl acetate layer is collected. The ethyl acetate layer is washed, dried, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; ethyl acetate/n-hexane=1:1~ethyl acetate), and recrystallized from ethyl acetate/n-hexane to give N-[6-{2-(5-acetylpyrimidin-2-yloxy)ethoxy}-5-(3-methoxyphenoxy)pyrimidin-4-yl]-4-tert-butylbenzenesulfonamide (849 mg).

reactant | 4-tert-butyl-N-[6-{2-(5-(1 -ethoxyethenyl)pyrimidin-2-yloxy)ethoxy}-5-(3-methoxyphenoxy)pyrimidin-4-yl]benzenesulfonamide | 1.022 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=CC(=CC=C1)OC)OCCOC1=NC=C(C=N1)C(=C)OCC | C31H35N5O7S
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | N-[6-{2-(5-acetylpyrimidin-2-yloxy)ethoxy}-5-(3-methoxyphenoxy)pyrimidin-4-yl]-4-tert-butylbenzenesulfonamide | 849 mg | C(C)(=O)C=1C=NC(=NC1)OCCOC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)OC1=CC(=CC=C1)OC | C29H31N5O7S
